US08623889B2
2-amino-5-bromobenzonitrile (100 g, 0.5 mol) was added during 1 hour to tert-butyl nitrite (117 mL, 0.75 mol) and iodine (250 g, 1.1 mol) in dry acetonitrile (600 mL) under nitrogen while maintaining the temperature between 30° C. and 35° C. Stirring was continued for 60 minutes at 23° C. Subsequent addition of saturated aqueous Na2SO3 (2 L) gave precipitate which was collected by filtration, and washed with hexanes to obtain 100 g (65%) of 5-bromo-2-iodobenzonitrile. 1H NMR (400 MHz, DMSO-d6) δ 8.14 (d, J=2.4 Hz, 1H), 7.95 (d, J=8.4 Hz, 1H), 7.64 (dd, J=2.4, 8.4 Hz, 1H).

reactant | 2-amino-5-bromobenzonitrile | 0.5 mol, 100 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | tert-butyl nitrite | 0.75 mol, 117 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | iodine | 1.1 mol, 250 g | II | I2
reactant | Na2SO3 | 2 L | [O-]S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
product | 5-bromo-2-iodobenzonitrile | 100 g, 65% | BrC=1C=CC(=C(C#N)C1)I | C7H3BrIN
